US06093731
A mixture of ethyl trans-4-aminocyclohexanecarboxylate (168 mg, 0.81 mmol), NEt3 (0.22 mL, 1.6 mmol) and 1,4-dichloro-7-isoquinolinesulphonyl chloride (200 mg, 0.67 mmol) in CH2Cl2 (8 mL) was stirred at 0° C. for 1 h. The mixture was diluted with CH2Cl2 (100 mL), was washed with dilute HCl (50 mL, 1 M), water, dried (MgSO4) and evaporated in vacuo to give ethyl trans-4-{[(1,4-dichloro-7-isoquinolinyl)sulphonyl]amino}cyclohexanecarboxylate (232 mg, 0.54 mmol) as a white solid.

reactant | ethyl trans-4-aminocyclohexanecarboxylate | 0.81 mmol, 168 mg | N[C@@H]1CC[C@H](CC1)C(=O)OCC | C9H17NO2
reactant | NEt3 | 1.6 mmol, 0.22 mL | CCN(CC)CC | C6H15N
reactant | 1,4-dichloro-7-isoquinolinesulphonyl chloride | 0.67 mmol, 200 mg | ClC1=NC=C(C2=CC=C(C=C12)S(=O)(=O)Cl)Cl | C9H4Cl3NO2S
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | ethyl trans-4-{[(1,4-dichloro-7-isoquinolinyl)sulphonyl]amino}cyclohexanecarboxylate | 0.54 mmol, 232 mg | ClC1=NC=C(C2=CC=C(C=C12)S(=O)(=O)N[C@@H]1CC[C@H](CC1)C(=O)OCC)Cl | C18H20Cl2N2O4S
